US06683184B2
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)N-methylaminocarbonyl]-4-(2-methoxyphenyl)piperazine
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine (200 mg, 0.54 mmol) was dissolved in dimethylformamide (15 ml) and thereto 60% sodium hydride (21.5 mg, 0.54 mmol) was added. The resulting mixture was stirred at room temperature for 15 minutes, and thereto methyl iodide (76.6 mg, 0.54 mmol) was added. The resulting mixture was stirred at room temperature for 6 hours, concentrated under the reduced pressure to remove the solvent, and purified by column chromatography to obtain the titled compound.

reactant | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | 0.54 mmol, 200 mg | CC=1N=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C19H25N5O3
reactant | sodium hydride | 0.54 mmol, 21.5 mg | [H-].[Na+]
reactant | methyl iodide | 0.54 mmol, 76.6 mg | CI | CH3I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)N-methylaminocarbonyl]-4-(2-methoxyphenyl)piperazine | yield: 92.5% | CC=1N=C(C(=NC1C)OC)N(C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)C | C20H27N5O3
